US09144239B2
Step 2: Preparation of (2S,3S,4S)-4-(benzyloxy)-3-butoxy-2-methyl-3,4-dihydro-2H-pyran
To a solution of (2S,3S,4S)-4-(benzyloxy)-2-methyl-3,4-dihydro-2H-pyran-3-ol (0.100 g, 0.454 mmol) in DMF (2.67 ml) at 0° C. was added NaH (45.0 mg, 1.13 mmol, 60% dispersion in mineral oil) and the reaction was stirred for 20 min at 0° C. Tetrabutylammonium iodide (34.0 mg, 0.091 mmol) and 1-iodobutane (0.20 mL, 1.76 mmol) were added and the reaction was stirred at room temperature for 18 h. The reaction was cooled to 0° C., additional NaH in (23.0 mg, 0.575 mmol) and 1-iodobutane (0.10 mL, 0.879 mmol) were added, and the reaction was warmed to 70° C. and stirred for 4 h. The reaction was cooled to room temperature, quenched with H2O, and extracted with EtOAc. The organic layer was separated and the aqueous layer was further extracted with EtOAc. The combined organic phases were washed with brine, dried over MgSO4, filtered, and concentrated to yield a pale-yellow oil. Purification of the crude oil by flash chromatography (SiO2, hexanes/EtOAc gradient) yielded the title compound as a colorless oil (93.0 mg, 74%): IR (neat) 2933, 2871, 1646, 1453, 1239, 1107, 1056, 734, 697 cm−1; 1H NMR (400 MHz, CDCl3) δ 7.41-7.24 (m, 5H), 6.34 (dd, J=6.1, 1.3 Hz, 1H), 4.83 (dd, J=6.1, 2.5 Hz, 1H), 4.67 (d, J=11.7 Hz, 1H), 4.59 (d, J=11.7 Hz, 1H), 4.11 (ddd, J=6.5, 2.2, 1.6 Hz, 1H), 3.89 (ddd, J=13.5, 9.3, 6.7 Hz, 1H), 3.83 (dt, J=9.2, 6.5 Hz, 1H), 3.63 (dt, J=9.2, 6.6 Hz, 1H), 3.30 (dd, J=9.0, 6.6 Hz, 1H), 1.64-1.51 (m, 2H), 1.44-1.33 (m, 2H), 1.38 (d, J=6.4 Hz, 3H), 0.92 (t, J=7.4 Hz, 3H); 13C NMR (101 MHz, CDCl3) δ 144.82, 138.69, 128.49, 127.81, 127.69, 100.49, 80.35, 76.53, 74.29, 72.32, 70.83, 32.52, 19.47, 17.53, 14.06; HRMS-ESI (m/z) [M]+ calcd for C17H24O3, 276.1725; found, 276.1710.

reactant | (2S,3S,4S)-4-(benzyloxy)-2-methyl-3,4-dihydro-2H-pyran-3-ol | 0.454 mmol, 0.100 g | C(C1=CC=CC=C1)O[C@@H]1[C@H]([C@@H](OC=C1)C)O | C13H16O3
reactant | NaH | 1.13 mmol, 45.0 mg | [H-].[Na+]
reactant | 1-iodobutane | 1.76 mmol, 0.20 mL | ICCCC | C4H9I
reactant | 1-iodobutane | 0.879 mmol, 0.10 mL | ICCCC | C4H9I
solvent | DMF | 2.67 ml | CN(C)C=O | C3H7NO
catalyst | Tetrabutylammonium iodide | 0.091 mmol, 34.0 mg | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | (2S,3S,4S)-4-(benzyloxy)-3-butoxy-2-methyl-3,4-dihydro-2H-pyran | 93.0 mg, 74% | C(C1=CC=CC=C1)O[C@@H]1[C@H]([C@@H](OC=C1)C)OCCCC | C17H24O3
